### PR TITLE
[DO NOT MERGE] Fix a coherence (ambiguous paths) issue of fieldExtType and a conversion issue of "regular" instances

### LINKED ISSUE #544: Ambiguous coercion paths in fieldext.v
I guess we do too much eta expansion somewhere:
```
Warning:
New coercion path [FieldExt.base6; GRing.ComUnitAlgebra.base2] : FieldExt.class_of >-> GRing.UnitAlgebra.class_of is ambiguous with existing 
[FieldExt.base; Falgebra.base1] : FieldExt.class_of >-> GRing.UnitAlgebra.class_of. [ambiguous-paths,typechecker]
Warning:
New coercion path [FieldExt.comUnitAlgType; GRing.ComUnitAlgebra.unitAlgType] : FieldExt.type >-> GRing.UnitAlgebra.type is ambiguous with existing 
[FieldExt.unitAlgType] : FieldExt.type >-> GRing.UnitAlgebra.type. [ambiguous-paths,typechecker]
```

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

- For `R : ringType`, `[lalgType R of R^o] : ringType` and `[ringType of R]` (≡ `GRing.Ring.Pack R (GRing.Ring.class R)`) were not convertible and other "regular" instances had the same issue, because every algebra structure had another algebra/module structure as their base. The algebra structures now take the closest ring/field structure as their base to avoid record eta expansion.
- The notation `[fieldExtType F of L for K]` is now removed. (Removing this notation is too aggressive and I have to put it back for compatibility reasons, but I don't get how to do that.)
- Some missing `comAlgType` and `comUnitAlgType` instances are added.
- Fixes #544: The coercion paths from `fieldExtType` to `unitAlgType` were ambiguous because the base of `FalgType` was `unitAlgType` but the base of `comUnitAlgType` was `comAlgType`.

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by pi8027** [comment]
I think we have observed another similar issue in https://github.com/math-comp/analysis/pull/205#discussion_r453067372. If `class_of` objects are primitive records, this is not the case anymore. See also: https://github.com/math-comp/math-comp/pull/462#issuecomment-598130155.

**Comment by pi8027** [comment]
Now this PR also fixes the conversion issue of regular instances but is a bit painful to merge as it is. I guess it is better to turn all the `class_of` objects into primitive records.

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -3438,7 +3461,8 @@ Proof. by move=> Ux y Uy; rewrite /= invrM ?unitrV // invrK mulrC divrK. Qed.
 Lemma expr_div_n x y n : (x / y) ^+ n = x ^+ n / y ^+ n.
 Proof. by rewrite exprMn exprVn. Qed.
 
-Canonical regular_comUnitRingType := [comUnitRingType of R^o].
+Canonical regular_comUnitRingType :=
+  @ComUnitRing.Pack R^o (ComUnitRing.class R).
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:3465]: Since the `[comUnitRingType of R]` notation does an extra record eta expansion, I had to avoid it. :(

File: mathcomp/field/fieldext.v [hunk 2]
```diff
@@ -94,29 +94,23 @@ Section FieldExt.
...
-  comm_ext : commutative (Ring.mul base);
-  idomain_ext : IntegralDomain.axiom (Ring.Pack base);
-  field_ext : Field.mixin_of (UnitRing.Pack base)
+  base : Field.class_of T;
+  lmod_ext : Lmodule.mixin_of R (Zmodule.Pack base);
+  lalg_ext :
+    @Lalgebra.axiom R (Lmodule.Pack _ (Lmodule.Class lmod_ext)) (Ring.mul base);
+  alg_ext : Algebra.axiom (Lalgebra.Pack _ (@Lalgebra.Class _ _ _ _ lalg_ext));
+  vect_ext : Vector.mixin_of (Lmodule.Pack _ (Lmodule.Class lmod_ext))
 }.
```
Comment (CohenCyril) [inline mathcomp/field/fieldext.v:103]: cf https://gist.github.com/CohenCyril/c2c7d87c9677ea757a5b67d56a985fb8#file-this-revision-was-meant-to-be-a-local-improvement-to.patch
